US04638067
To 0.75 g (2.57 mmol) of 6,7,8-trifluoro-1,4-dihydro-1-(1-methylcyclopropyl)-4-oxo-3-quinolinecarboxylic acid in 15.0 ml of acetonitrile was added 0.38 g (2.57 mmol) of 1,8-diazobicyclo[5.4.0]undec-7-ene and 0.32 g (2.57 mmol) of 3-[(ethylamino)methyl]pyrrolidine. The mixture was refluxed for two hours and was cooled and filtered. The solids were washed with ether to afford 0.76 g of 7-[3-[(ethylamino)methyl]-1-pyrrolidinyl]-6,8-difluoro 1,4-dihydro-1-(1-methylcyclopropyl)-4-oxo-3-quinolinecarboxylic acid, mp 261°-263° C.

reactant | 6,7,8-trifluoro-1,4-dihydro-1-(1-methylcyclopropyl)-4-oxo-3-quinolinecarboxylic acid | 2.57 mmol, 0.75 g | FC=1C=C2C(C(=CN(C2=C(C1F)F)C1(CC1)C)C(=O)O)=O | C14H10F3NO3
reactant | 3-[(ethylamino)methyl]pyrrolidine | 2.57 mmol, 0.32 g | C(C)NCC1CNCC1 | C7H16N2
solvent | acetonitrile | 15.0 ml | C(C)#N | C2H3N
product | 7-[3-[(ethylamino)methyl]-1-pyrrolidinyl]-6,8-difluoro 1,4-dihydro-1-(1-methylcyclopropyl)-4-oxo-3-quinolinecarboxylic acid | 0.76 g | C(C)NCC1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1F)C1(CC1)C)C(=O)O)=O)F | C21H25F2N3O3
